US06002008
A 1.25 gram (5 mmole) portion of 4-chloro, 6,7-dimethoxy-quinoline-3-carbonitrile and a 1.05 gram (5 mmole) portion of N, N-dimethyl-1,3-phenylenediamine in 10 ml of 2-methoxyethanol were refluxed for 2 hours in an oil bath at 154 deg. Cooling gave a solid which was recrystallized from water to give 0.4 grams (19%) of 4-(3-Dimethylamino-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile which melted at 246-249° C.: mass spectrum (electrospray m/e):.(M+H)=349.2., (M+2H)'2 =174.9.

reactant | 6,7-dimethoxy-quinoline-3-carbonitrile | COC=1C=C2C=C(C=NC2=CC1OC)C#N | C12H10N2O2
reactant | N, N-dimethyl-1,3-phenylenediamine | CN(C1=CC(=CC=C1)N)C | C8H12N2
solvent | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
product | 4-(3-Dimethylamino-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 0.4 grams, 19% | CN(C=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N)C | C20H20N4O2
